US07560558B2
3-Bromo-6-methoxypyridine (1.67 g) was dissolved in tetrahydrofuran (40 ml) under an argon atmosphere to prepare a solution. A 1.6 M n-butyllithium/hexane solution (5.7 ml) was added dropwise to the solution at −78° C., and the mixture was then stirred at −78° C. for 30 min. A solution of 4,5-dimethylfurfural (1.00 g) in tetrahydrofuran (20 ml) was added dropwise thereto, and the temperature of the mixture was raised to room temperature while stirring. Water was added to the reaction solution to stop the reaction, and the solvent was removed by distillation under the reduced pressure. Water was added to the residue, and the mixture was extracted with ethyl acetate. The ethyl acetate layer was then washed with water and was dried over anhydrous sodium sulfate. The solvent was removed by distillation under the reduced pressure, and the residue was purified by column chromatography using hexane-ethyl acetate to give (4,5-dimethylfuran-2-yl)-(6-methoxypyridin-3-yl)-methanol (1.24 g, yield 60%).

reactant | 3-Bromo-6-methoxypyridine | 1.67 g | BrC=1C=NC(=CC1)OC | C6H6BrNO
reactant | n-butyllithium hexane | 1.6 M, 5.7 ml | C(CCC)[Li].CCCCCC
reactant | 4,5-dimethylfurfural | 1.00 g | CC=1C=C(C=O)OC1C | C7H8O2
reactant | Water | O | H2O
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | (4,5-dimethylfuran-2-yl)-(6-methoxypyridin-3-yl)-methanol | 1.24 g, yield 60% | CC=1C=C(OC1C)C(O)C=1C=NC(=CC1)OC | C13H15NO3
